US05650533
A solution of potassium hydroxide (2.0 g) in water was added to a solution of ethyl 4-bromo-3-methoxy-2-(methylsulphenyl)-benzoate (4.5 g) in ethanol. The resulting solution was stirred and heated at reflux for 3 hours. After cooling, the mixture was evaporated to dryness and the residue was dissolved in water and washed with ethyl acetate. The aqueous solution was acidified to pH 1 and extracted with ethyl acetate, dried (anhydrous MgSO4) and filtered. The filtrate was evaporated to dryness to give 4-bromo-3-methoxy-2-(methylsulphenyl)benzoic acid as a white solid, NMR (CDCl3) 2.5(s,3H), 3.9(s,3H), 7.4(s,2H), 10.9(bs, 1H).

reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | ethyl 4-bromo-3-methoxy-2-(methylsulphenyl)-benzoate | 4.5 g | BrC1=C(C(=C(C(=O)OCC)C=C1)SC)OC | C11H13BrO3S
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-bromo-3-methoxy-2-(methylsulphenyl)benzoic acid | BrC1=C(C(=C(C(=O)O)C=C1)SC)OC | C9H9BrO3S
